US08703768B2
Step 1: 2-Amino-N4,N4-diethyl-N1-methylterephthalamide
In an autoclave a mixture of methyl 2-amino-4-(diethylcarbamoyl)benzoate (490 mg, 1.96 mmol) and methylamine solution (33% in ethanol; 25 ml, 200 mmol) was stirred for 24 hrs at 90° C. The reaction mixture was concentrated. The crude product was purified by silica gel chromatography using EtOAc as eluent, providing the title compound as white solid (341 mg, 70%).

reactant | methyl 2-amino-4-(diethylcarbamoyl)benzoate | 1.96 mmol, 490 mg | NC1=C(C(=O)OC)C=CC(=C1)C(N(CC)CC)=O | C13H18N2O3
reactant | methylamine | 200 mmol, 25 ml | CN | CH5N
product | 2-Amino-N4,N4-diethyl-N1-methylterephthalamide | 341 mg, 70% | NC1=C(C(=O)NC)C=CC(=C1)C(=O)N(CC)CC | C13H19N3O2
